US06881844B2
A solution of 2,2,2-trifluoro-1-(6-bromo-1-isopropyl-1H-indol-3-yl)-ethanone (3.30 g, 9.88 mmol) in a 20% aqueous sodium hydroxide solution (35 mL) was heated at 110° C. for 18 h. At this time, the reaction was cooled to 25° C., partitioned between water (100 mL) and ethyl acetate (100 mL), and treated with a 1N aqueous hydrochloric acid solution (60 mL). The organic layer was then washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid (2.63 g, 94%) as a yellow solid: mp 207-209° C.; EI-HRMS m/e calcd for C12H12BrNO2 (M+) 281.0051, found 281.0047.

reactant | 2,2,2-trifluoro-1-(6-bromo-1-isopropyl-1H-indol-3-yl)-ethanone | 9.88 mmol, 3.30 g | FC(C(=O)C1=CN(C2=CC(=CC=C12)Br)C(C)C)(F)F | C13H11BrF3NO
reactant | sodium hydroxide | 35 mL | [OH-].[Na+]
product | 6-bromo-1-isopropyl-1H-indole-3-carboxylic acid | 2.63 g, 94% | BrC1=CC=C2C(=CN(C2=C1)C(C)C)C(=O)O | C12H12BrNO2
